US07504403B2
1-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl }-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one.
Following the same procedure described for the synthesis of 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl -1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one, the sulfoxide (0.29 g, 0.83 mmol) was displaced with [3-(2-amino-propyl)-phenyl]-methanol (0.3 g, 1.66 mmol) to give the title compound as a light yellow solid. MS m/e 468 (M+H)+.

reactant | 1-(2-phenethylamino-pyrimidin-4-yl)-8-phenyl -1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | C(CC1=CC=CC=C1)NC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C26H25N5O
reactant | [3-(2-amino-propyl)-phenyl]-methanol | 1.66 mmol, 0.3 g | NC(CC=1C=C(C=CC1)CO)C | C10H15NO
product | 1-{2-[2-(3-Hydroxymethyl-phenyl)-1-methyl-ethylamino]-pyrimidin-4-yl }-8-phenyl-1,2,3,4-tetrahydro-pyrido[1,2-a]pyrimidin-6-one | OCC=1C=C(C=CC1)CC(C)NC1=NC=CC(=N1)N1C=2N(CCC1)C(C=C(C2)C2=CC=CC=C2)=O | C28H29N5O2
